US08304419B2
A stirred solution of methyl 3-chloro-5-ethenyl-1H-pyrrole-2-carboxylate (0.100 g, 0.539 mmol) in THF (5 mL) was treated with 9-BBN (5.39 mL, 2.15 mmol). The reaction was stirred at RT overnight. The reaction mixture was treated with 1 mL of 1N NaOH and 1 mL of 30% H2O2 and stirred. The reaction mixture was partitioned between EtOAc and a solution of sodium metabisulfite. The organic layer was separated, dried over MgSO4 and evaporated to a residue. The residue was taken up in 1N LiOH (1 mL), MeOH (1 mL) and THF (1 mL) and heated until the acid was formed as seen on TLC. The reaction was evaporated, acidified and extracted with EtOAc. The organic layer was separated and dried over MgSO4 to afford methyl 3-chloro-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxylate (0.028 g, 27%) as a solid. LCMS: m/z=188.0 (M−1).

reactant | methyl 3-chloro-5-ethenyl-1H-pyrrole-2-carboxylate | 0.539 mmol, 0.100 g | ClC1=C(NC(=C1)C=C)C(=O)OC | C8H8ClNO2
reactant | 9-BBN | 2.15 mmol, 5.39 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | H2O2 | 1 mL | OO | H2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 3-chloro-5-(2-hydroxyethyl)-1H-pyrrole-2-carboxylate | 0.028 g, 27% | ClC1=C(NC(=C1)CCO)C(=O)OC | C8H10ClNO3
